US08084484B2
c) N-[4-(Cyano-methyl-methyl)-2-nitro-phenyl]-acetamide
To the flask of N-[4-(Cyano-methyl-methyl)-phenyl]-acetamide (12.9 g, 68.5 mmol) was added Ac2O (35 mL) at 5° C. The mixture was stirred and added HNO3 (7.45 g, 70.9 mmol) at 0° C. This reaction was very exothermic. The mixture was stirred for 1 hr at 0° C. and additionally stirred for 3 hrs at room temperature. The mixture was diluted with H2O and extracted with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (1:2) as eluant.

reactant | N-[4-(Cyano-methyl-methyl)-phenyl]-acetamide | 68.5 mmol, 12.9 g | C(#N)C(C1=CC=C(C=C1)NC(C)=O)C | C11H12N2O
reactant | Ac2O | 35 mL | CC(=O)OC(=O)C | C4H6O3
reactant | HNO3 | 70.9 mmol, 7.45 g | [N+](=O)(O)[O-] | HNO3
solvent | H2O | O | H2O
product | N-[4-(Cyano-methyl-methyl)-2-nitro-phenyl]-acetamide | C(#N)C(C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])C | C11H11N3O3
